US05262390
By the method of Example 1, Step J, 1.98 g (0.0095 mole) of methyl 2-(3-hydroxymethylphenoxy)propionate and 1.24 g (0.0105 mole) of thionyl chloride were reacted in the presence of five drops of pyridine in 40 mL of methylene chloride, yielding 1.93 g of methyl 2-(3-chloromethylphenoxy)propionate as a yellow liquid. The NMR and IR spectra were consistent With the proposed structure.

reactant | methyl 2-(3-hydroxymethylphenoxy)propionate | 0.0095 mole, 1.98 g | OCC=1C=C(OC(C(=O)OC)C)C=CC1 | C11H14O4
reactant | thionyl chloride | 0.0105 mole, 1.24 g | S(=O)(Cl)Cl | Cl2OS
catalyst | pyridine | five drops | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-(3-chloromethylphenoxy)propionate | 1.93 g | ClCC=1C=C(OC(C(=O)OC)C)C=CC1 | C11H13ClO3
